US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(2-THIENYLMETHYL)AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and thiophene-2-carbaldehyde according to the procedure of Example 66. MS (ES) m/z 475.2.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | thiophene-2-carbaldehyde | S1C(=CC=C1)C=O | C5H4OS
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(2-THIENYLMETHYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1SC=CC1)C(F)(F)F | C28H21F3N2S
